US06194430B1
A general synthesis route begins with 2-chloropyridine which is nitrated in the presence of sulfuric acid to make 2-chloro-3-nitropyridine. This material is reacted with ammonium acetate in the presence of diglyme at about 160° C. to form 2-amino-3-nitropyridine which is reduced to form 2,3-diaminopyridine. The 2,3-diaminopyridine is reacted with 2-thiophenecarboxylic acid in the presence of polyphosphoric acid at about 125° C. to prepare 2-(2-thienyl)imidazolo [4,5]pyridine.

reactant | 2-chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | diglyme | COCCOCCOC | C6H14O3
product | 2-amino-3-nitropyridine | NC1=NC=CC=C1[N+](=O)[O-] | C5H5N3O2
